US07786132B2
(ii) 5-Bromo-2-chloro-4-[2-(phenylthio)thiazol-5-yl]pyrimidine
The title compound was prepared from 2-Phenylthiothiazole and 5-bromo-2-chloro-pyrimidine in a manner analogous to Example 249, Step 1. MS (M+H)+ 386.

reactant | 2-Phenylthiothiazole | C1(=CC=CC=C1)SC=1SC=CN1 | C9H7NS2
reactant | 5-bromo-2-chloro-pyrimidine | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
product | 5-Bromo-2-chloro-4-[2-(phenylthio)thiazol-5-yl]pyrimidine | BrC=1C(=NC(=NC1)Cl)C1=CN=C(S1)SC1=CC=CC=C1 | C13H7BrClN3S2
